* Pi output filter from the PA
* We aren't currently using these, but they are here for an example.

.include ImpedanceMatchers.cir
.include Filters.cir

.param m = 0

* 3rd order LP filter loss
.if (m == 1)
Vin ina 0 dc 0 AC 1 sin(0 1 435MEG 0 0 0)
X0 ina x1 x1 in PAOutImpedance
X1 in out PiFiltLP3_PA_440MHz
Rload out 0    50
.endif

* Measure the input impedance of the filter
.if (m == 2)
I1  0  in  dc 0 ac 1
X1 in out PiFiltLP3_PA_440MHz
Rout out 0 50
.endif

* Measure the output impedance of the filter
.if (m == 3)
I1  0  out  dc 0 ac 1
X1 in out PiFiltLP3_PA_440MHz
X0 0 x1 x1 in PAOutImpedance
.endif

* 5th order LP filter loss
.if (m == 4)
Vin ina 0 dc 0 AC 1 sin(0 1 435MEG 0 0 0)
X0 ina x1 x1 in PAOutImpedance
X1 in a1 PiFiltLP3_PA_440MHz
X2 a1 out PiFiltLP3_440MHz
Rload out 0    50
.endif

* Measure the input impedance of the filter
.if (m == 5)
I1  0  in  dc 0 ac 1
X1 in a1 PiFiltLP3_PA_440MHz
X2 a1 out PiFiltLP3_440MHz
Rout out 0 50
.endif

* Measure the output impedance of the filter
.if (m == 6)
I1  0  out  dc 0 ac 1
X1 in a1 PiFiltLP3_PA_440MHz
X2 a1 out PiFiltLP3_440MHz
X0 0 x1 x1 in PAOutImpedance
.endif

* 3rd order HP filter loss
.if (m == 7)
Vin ina 0 dc 0 AC 1 sin(0 1 435MEG 0 0 0)
Rin ina in 50
X1 in out PiFiltHP3_440MHz
Rload out 0    50
.endif

* Measure the input impedance of the filter
.if (m == 8)
I1  0  in  dc 0 ac 1
X1 in out PiFiltHP3_440MHz
Rout out 0 50
.endif

* Measure the output impedance of the filter
.if (m == 9)
I1  0  out  dc 0 ac 1
X1 in out PiFiltHP3_440MHz
X0 0 x1 x1 in PAOutImpedance
.endif

* 5th order BP filter loss
.if (m == 10)
Vin ina 0 dc 0 AC 1 sin(0 1 435MEG 0 0 0)
X0 ina x1 x1 in PAOutImpedance
X1 in a1 PiFiltLP3_PA_440MHz
X2 a1 out PiFiltHP3_440MHz
Rload out 0    50
.endif

* Measure the input impedance of the filter
.if (m == 11)
I1  0  in  dc 0 ac 1
X1 in a1 PiFiltLP3_PA_440MHz
X2 a1 out PiFiltHP3_440MHz
Rout out 0 50
.endif

* Measure the output impedance of the filter
.if (m == 12)
I1  0  out  dc 0 ac 1
X1 in a1 PiFiltLP3_PA_440MHz
X2 a1 out PiFiltHP3_440MHz
X0 0 x1 x1 in PAOutImpedance
.endif

.control
alterparam m = 1
reset
ac lin 50000 3Meg 1400Meg
* 0.663 is 2 * sqrt(Zin / Zout) = 2 * sqrt(5.5 / 50)
plot title "3rd Order LP Filter Loss" db(.663 * v(out) / v(ina))
*plot vr(out) vi(out) vp(out)

alterparam m = 2
reset
ac lin 50000 3Meg 1400Meg
plot title "3rd Order LP Filter Input Impedance" v(in) vi(in)

alterparam m = 3
reset
ac lin 50000 3Meg 1400Meg
plot title "3rd Order LP Filter Output Impedance" v(out) vi(out)

alterparam m = 4
reset
ac lin 50000 3Meg 1400Meg
* 0.663 is 2 * sqrt(Zin / Zout) = 2 * sqrt(5.5 / 50)
plot title "5th Order LP Filter Loss" db(.663 * v(out) / v(ina))
*plot vr(out) vi(out) vp(out)

alterparam m = 5
reset
ac lin 50000 3Meg 1400Meg
plot title "5th Order LP Filter Input Impedance" v(in) vi(in)

alterparam m = 6
reset
ac lin 50000 3Meg 1400Meg
plot title "5th Order LP Filter Output Impedance" v(out) vi(out)

alterparam m = 7
reset
ac lin 50000 3Meg 1400Meg
plot title "3rd Order HP Filter Loss" db(2 * v(out) / v(ina))
*plot vr(out) vi(out) vp(out)

alterparam m = 8
reset
ac lin 50000 3Meg 1400Meg
plot title "3rd Order HP Filter Input Impedance" v(in) vi(in)

alterparam m = 9
reset
ac lin 50000 3Meg 1400Meg
plot title "3rd Order HP Filter Output Impedance" v(out) vi(out)

alterparam m = 10
reset
ac lin 50000 3Meg 1400Meg
* 0.663 is 2 * sqrt(Zin / Zout) = 2 * sqrt(5.5 / 50)
plot title "5th Order BP Filter Loss" db(.663 * v(out) / v(ina))
*plot vr(out) vi(out) vp(out)

alterparam m = 11
reset
ac lin 50000 3Meg 1400Meg
plot title "5th Order BP Filter Input Impedance" v(in) vi(in)

alterparam m = 12
reset
ac lin 50000 3Meg 1400Meg
plot title "5th Order BP Filter Output Impedance" v(out) vi(out)

.endc

.end
